* C:\Users\taf27\Desktop\Class-E-Optimization\GaN_Class_E.asc
V1 VIN 0 PULSE(0 5 0 0.5n 0.5n 6.345n 25.38n)
R1 VG VIN 1
V2 VDD 0 {VDD}
L1 VDD N001 4.7u
L2 VD N003 66n
C2 N004 N002 {C2}
R2 Vout 0 {RL}
C3 VDD 0 10u
C4 Vout N006 {C4}
XU1 VG VD 0 EPC2212
C1 VD N007 220p
R3 N007 N010 20m
L3 N010 0 1.1n
R5 N001 VD 7m
C6 VDD VD 1.3p
R6 VDD VD 20k
R7 N002 VD 6.4k
C8 N002 VD 2p
R10 N002 N003 0.9m
R8 N005 N004 3m
L5 Vout N005 0.5n
R9 N009 N006 3m
L6 0 N009 0.5n
C5 VD N008 220p
R4 N008 N011 20m
L4 N011 0 1.1n
.tran 0 8u 7u 1n
.param C2=620p C4=558p VDD=14 RL=50
.four 39400000 10 50 V(Vout)
.measure tran dc_power avg (V(VDD)*I(V2))
.measure tran power_out avg (V(VOUT)*I(R2))
.measure tran gate_power avg (V(VIN)*I(V1))
.lib C:\Users\taf27\Desktop\Class-E-Optimization\EPCGaNLibrary\EPCGaNLibrary.lib
.backanno
.end
